US08013008B2
benzyl (2S,3S,5R)-3-hydroxy-2,5-dimethylpyrrolidine-1-carboxylate
To a solution (12 mL) of benzyl (2S,3S,5S)-3-hydroxy-2-methyl-5-[(trimethylsilyl)methyl]pyrrolidine-1-carboxylate (222 mg) synthesized according to the method described in Journal of Organic Chemistry, vol. 59, pages 1958-1960 (1994), potassium tert-butoxide (130 mg) and 18-crown-6-ether (53 mg) in DMSO was added water (0.6 mL), and the mixture was stirred at 100° C. for 17 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=50/1→2/3) to give the title compound as colorless oil (yield: 112 mg, yield: 65%).

reactant | benzyl (2S,3S,5S)-3-hydroxy-2-methyl-5-[(trimethylsilyl)methyl]pyrrolidine-1-carboxylate | 12 mL, 222 mg | O[C@@H]1[C@@H](N([C@@H](C1)C[Si](C)(C)C)C(=O)OCC1=CC=CC=C1)C | C17H27NO3Si
reactant | potassium tert-butoxide | 130 mg | CC(C)([O-])C.[K+]
reactant | 18-crown-6-ether | 53 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | water | 0.6 mL | O | H2O
solvent | DMSO | CS(=O)C | C2H6OS
product | benzyl (2S,3S,5R)-3-hydroxy-2,5-dimethylpyrrolidine-1-carboxylate | yield: 112 mg, yield: 65% | O[C@@H]1[C@@H](N([C@@H](C1)C)C(=O)OCC1=CC=CC=C1)C | C14H19NO3
